US09107411B2
2-Chloro-N-cyclopropyl-4,5-dinitrobenzamide (7.5 g, 26.3 mmol) was initially charged in ethanol (200 ml) and water (40 ml). At room temperature, ammonium chloride (2.53 g, 47.4 mmol) was added and the reaction mixture was heated to 60° C. At this temperature, iron powder (14.7 g, 263 mmol) was added in portions and the reaction mixture was then heated under reflux for 4 h. The ethanol was removed under reduced pressure and the remaining aqueous suspension was filtered through Celite. The filtrate was extracted three times with ethyl acetate, and the combined organic phases were washed with saturated sodium chloride solution and dried over sodium sulphate. After removing the solvent under reduced pressure, 4 g (68% of theory) of 4,5-diamino-2-chloro-N-cyclopropylbenzamide were obtained. 1H NMR (D6-DMSO): δ 0.44-0.48 (m, 2H), 0.61-0.64 (m, 2H), 2.71-2.75 (m, 1H), 4.68 (bs, 2H), 4.98 (bs, 2H), 6.47 (s, 1H), 6.55 (s, 1H), 7.95-7.97 (d, 1H).

reactant | 2-Chloro-N-cyclopropyl-4,5-dinitrobenzamide | 26.3 mmol, 7.5 g | ClC1=C(C(=O)NC2CC2)C=C(C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C10H8ClN3O5
reactant | ammonium chloride | 47.4 mmol, 2.53 g | [Cl-].[NH4+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
catalyst | iron | 263 mmol, 14.7 g | [Fe] | Fe
product | 4,5-diamino-2-chloro-N-cyclopropylbenzamide | 4 g, 68% | NC1=CC(=C(C(=O)NC2CC2)C=C1N)Cl | C10H12ClN3O
